US06399629B1
(B) N-tert-Butoxycarbonyl-4-(4-Benzyloxyphenoxy)piperidine
Triphenylphosphine (917 mg) was added to a solution of N-tert-butoxycarbonyl-4-hydroxypiperidine (A, 704 mg), 4-benzyloxyphenol (700 mg) and diethyl azodicarboxylate (609 mg) in tetrahydrofuran (20 mL) at room temperature. After stirring at room temperature for 14 hr, the reaction mixture was concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:9, v/v) to give the titled compound (703 mg) as a colorless oil: 1H NMR (400 MHz, CDCl3) δ 1.47 (s, 9H), 1.72 (m, 2H), 1.88 (m, 2H), 3.29 (ddd, J=3.9, 7.8, 12.5 Hz, 2H), 3.70 (m, 2H), 4.32 (quintet, J=3.9 Hz, 1H), 5.01 (s, 2H), 6.84-6.91 (m, 4H), and 7.32-7.43 (m, 5H).

reactant | Triphenylphosphine | 917 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-tert-butoxycarbonyl-4-hydroxypiperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 4-benzyloxyphenol | 700 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | diethyl azodicarboxylate | 609 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-tert-Butoxycarbonyl-4-(4-Benzyloxyphenoxy)piperidine | 703 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C23H29NO4
